US08536179B2
To a stirred solution of methyl 6-chloro-1-isopropyl-3-methyl-1H-indole-4-carboxylate (2.5 g, 9.41 mmol) in DMF (25 mL) was added NBS (1.7 g, 9.55 mmol). The reaction was stirred for 18 h then evaporated to dryness under vacuum. The reaction was purified by silica gel chromatography (Analogix, SF40-80 g, 0 to 5% EtOAc in hexanes) then (Analogix, SF25-60 g, 25% CH2Cl2 in hexanes) to give the product methyl 2-bromo-6-chloro-1-isopropyl-3-methyl-1H-indole-4-carboxylate (1.79 g, 5.19 mmol, 55.2% yield) as a clear oil. 1H NMR (400 MHz, DMSO-d6) δ=7.98 (d, J=1.8 Hz, 1H), 7.41 (d, J=1.8 Hz, 1H), 5.05 (dt, J=6.7, 13.4 Hz, 1H), 3.89 (s, 3H), 2.22 (s, 3H), 1.57 (d, J=7.1 Hz, 6H). MS (ES)+m/e 344.0 [M+H]+.

reactant | methyl 6-chloro-1-isopropyl-3-methyl-1H-indole-4-carboxylate | 9.41 mmol, 2.5 g | ClC=1C=C(C=2C(=CN(C2C1)C(C)C)C)C(=O)OC | C14H16ClNO2
reactant | NBS | 9.55 mmol, 1.7 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | EtOAc | 80 g | CCOC(=O)C | C4H8O2
reactant | CH2Cl2 | 60 g | C(Cl)Cl | CH2Cl2
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | methyl 2-bromo-6-chloro-1-isopropyl-3-methyl-1H-indole-4-carboxylate | 5.19 mmol, 1.79 g, 55.2% yield | BrC=1N(C=2C=C(C=C(C2C1C)C(=O)OC)Cl)C(C)C | C14H15BrClNO2
